*  ********************************************************************************************************************
*  COPYRIGHT: INFINEON Technologies AG
*  ********************************************************************************************************************
*  COMMENT:
*  - The models for Infineon Power MOSFET are evaluated with                                                          *
*  - SIMetrixTM-Spice simulator. The Infineon Power MOSFET models                                                     *
*    are tested, verified and provided in Spice simulation code.                                                      *
*  ********************************************************************************************************************
*  ********************************************************************************************************************
*   INFINEON Power Transistors                                                                                        *
*   Content:        SPICE Simulation Model Library                                                                    *
*   Device:         CoolSiC 1200V SiC Trench MOSFET G1                                                                *
*   Package:        TO247-3 / TO247-4                                                                                 *
*   Model Types:    L3                                                                                                *
*   Technology:     1200V                                                                                             *
*   Date:           2023-12-07                                                                                        *
*   Version:        2.0                                                                                               *
*  ********************************************************************************************************************
*  ****************************************************************
*   Infineon  | Terminals   |  Usage suggestion                   *
*   Level     |             |                                     *
*   ------------------------------------------------------------- *
*   L3        | DRAIN,      |  Self-heating effects,              *
*             | GATE,       |  modeling of heat flow              *
*             | SOURCE,     |  including thermal models of        *
*             | SOURCESENSE |  TO package.                        *
*             | Tj, Tcase   |                                     *
*  ****************************************************************
*   Detailed Information:                                         *
*                                                                 *
*   The model files are available on the Infineon web page:       *
*   http://www.infineon.com                                       *
*                                                                 *
*   This library contains models of the following INFINEON        *
*   CoolSiC transistors:                                          *
*                                                                 *
*   G1 1200V                                                      *
*        IMW120R0XXM1H_L3   PG-TO247-3 3pin                       *
*        IMZA120R0XXM1H_L3  PG-TO247-4 4pin                       *
*                                                                 *
* Product        Device Type        Package        L3-model name  *
* IMZA120R040M1H  CoolSiC MOSFET    PG-TO247-4     IMZA120R040M1H_L3 *
* IMZA120R030M1H  CoolSiC MOSFET    PG-TO247-4     IMZA120R030M1H_L3 *
* IMZA120R020M1H  CoolSiC MOSFET    PG-TO247-4     IMZA120R020M1H_L3 *
* IMZA120R014M1H  CoolSiC MOSFET    PG-TO247-4     IMZA120R014M1H_L3 *
* IMZA120R007M1H  CoolSiC MOSFET    PG-TO247-4     IMZA120R007M1H_L3 *
* IMW120R040M1H   CoolSiC MOSFET    PG-TO247-3     IMW120R040M1H_L3 *
* IMW120R030M1H   CoolSiC MOSFET    PG-TO247-3     IMW120R030M1H_L3 *
* IMW120R020M1H   CoolSiC MOSFET    PG-TO247-3     IMW120R020M1H_L3 *
* IMW120R014M1H   CoolSiC MOSFET    PG-TO247-3     IMW120R014M1H_L3 *
* IMW120R007M1H   CoolSiC MOSFET    PG-TO247-3     IMW120R007M1H_L3 *
*  ********************************************************************************************************************
*  ********************************************************************************************************************
* DISCLAIMER
* 
* INFINEON’S MODEL TERMS OF USE
*
* BY DOWNLOADING AND/OR USING THIS INFINEON MODEL (“MODEL”), THE USER (INCLUDING YOU) AGREES TO BE BOUND BY THE TERMS
* MODEL BUT OF USE HERE STATED. IF USER DOES NOT AGREE TO ALL TERMS OF USE HERE STATED, USER SHALL NOT DOWNLOAD, USE
* OR COPY THE IMMEDIATELY DELETE IT (TO THE EXTENT THAT IT WAS DOWNLOADED ALREADY).
*
* 1.  SCOPE OF USE
* 1.1 Any use of this Model provided by Infineon Technologies AG is subject to these Terms of Use.
* 1.2 This Model, provided by Infineon, does not fully represent all of the specifications and operating
*     characteristics of the product to which this Model relates.
* 1.3 This Model only describes the characteristics of a typical product. In all cases, the current data sheet
*     information for a given product is the final design guideline and the only actual performance specification.
*     Although this Model can be a useful tool to evaluate the product performance, it cannot simulate the exact
*     product performance under all conditions and it is also not intended to replace bread-boarding for final
*     verification.
* 2.  IMPORTANT NOTICE
* 2.1 Infineon Technologies AG (“Infineon”) is not and cannot be aware of the specific application of the Infineon’s
*     Model by User. However, Model may from time to time be used by User in potentially harmful and/or
*     life-endangering applications such as traffic, logistic, medical, nuclear or military applications or in other
*     applications where failure of the Model may predictably cause damage to persons’ life or health or to property
*     (hereinafter "Critical Applications").
* 2.2 User acknowledges that Infineon has not specifically designed or qualified the Model for Critical Applications
*     that the Model may contain errors and bugs and that User is required to qualify the Model for Critical
*     Applications pursuant to the applicable local quality, safety and legal requirements before permitting or giving
*     access to any such use.
* 3.  CONFIDENTIAL INFORMATION
*     User shall treat ideas, concepts and information incorporated in the Model, the documentation and the content of
*     this Terms of Use (together hereinafter "Confidential Information") confidential, not disclose it to any third
*     party unless otherwise agreed in writing between User and Infineon, not use it for any other purposes than using
*     the Model for simulation and testing purposes only.
* 4.  WARRANTY
* 4.1 User acknowledges that the Model is provided by Infineon under this Terms of Use is provided free of charge and
*     "AS IS" without any warranty or liability of any kind and Infineon hereby expressly disclaims any warranties or
*     representations, whether express, implied, statutory or otherwise, including but not limited to warranties of
*     workmanship, merchantability, fitness for a particular purpose, defects in the Model, or non-infringement of
*     third parties intellectual property rights.
* 4.2 Infineon reserves the right to make corrections, deletions, modifications, enhancements, improvements and other
*     changes to the Model at any time or to move or discontinue any Model without notice.
* 5.  LIABILITY
* 5.1 Nothing in this Terms of Use shall limit or exclude Infineon's liability under mandatory liability laws, for
*     injuries to life, body or health, for fraudulent concealment of defects in the software, or in cases of
*     Infineon's intentional misconduct or gross negligence.
* 5.2 Without prejudice to Sections 5.1, in cases of Infineon's slight negligent breach of obligations that restrict
*     essential rights or duties arising from the nature of this Terms of Use in a way that there is a risk of
*     non-achievement of the purpose of this Terms of Use or of an obligation whose observance User regularly may
*     trust in and whereas compliance with only makes proper execution of this Terms of Use possible, Infineon's
*     liability shall be limited to the typically, foreseeable damage.
* 5.3 Without prejudice to Sections 8.1 and 8.2, Infineon's liability under this Agreement shall be excluded in all
*     other cases.
* 6.  EXPORT REGULATIONS
*     The User shall comply with all applicable national and international laws and regulations, in particular the
*     applicable export control regulations and sanction programs. The User also agrees not to export, re-export or
*     transfer any software or technology developed with or using information, software or technology offered by
*     Infineon, in violation of any applicable laws or regulations of the competent authorities. Further, the User
*     shall neither use any products, information, software and technology offered by Infineon in or in connection
*     with nuclear technology or weapons of mass destruction (nuclear, biological or chemical) and carriers thereof
*     nor supply military consignees.
* 7.  TERMINATION OF USE PERMIT
*     If the User violates these Terms of Use, such User’s permit to use this Model terminates automatically. In
*     addition, Infineon may terminate the User’s permit to use this Model at its discretion and at any time
*     regardless of any violation of these Terms of Use. In any of the foregoing events, the User is obliged to
*     immediately destroy any content that has been downloaded or printed from Infineon’s website.
* 8.  MISCELLANEOUS
* 8.1 These Terms of Use are subject to the laws of the Federal Republic of Germany with the exception of the United
*     Nations on Purchase Contracts on the International Sale of Goods dated April 11, 1980 (CISG). The exclusive
*     place of jurisdiction is Munich, Germany.
* 8.2 Should any provision in these Terms of Use be or become invalid, the validity of all other provisions or
*     agreements shall remain unaffected thereby.
* *********************************************************************************************************************
*     SUPPORT : support@infineon.com
* *********************************************************************************************************************
* *********************************************************************************************************************
.SUBCKT IMZA120R040M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 1P
L0072 SOURCESENSE SS 100P
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 2N
X009O TJ TCASE Z000J PARAMS: N02CL=6.28 N02DA=8.89
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=6.28
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMZA120R040M1H_L3
 
.SUBCKT IMW120R040M1H_L3 DRAIN GATE SOURCE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 10N
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 4N
X009O TJ TCASE Z000J PARAMS: N02CL=6.28 N02DA=8.89
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=6.28
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMW120R040M1H_L3
 
.SUBCKT IMZA120R030M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 1P
L0072 SOURCESENSE SS 100P
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 2N
X009O TJ TCASE Z0006 PARAMS: N02CL=8.33 N02DA=11.66
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=8.33
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMZA120R030M1H_L3
 
.SUBCKT IMW120R030M1H_L3 DRAIN GATE SOURCE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 10N
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 4N
X009O TJ TCASE Z0006 PARAMS: N02CL=8.33 N02DA=11.66
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=8.33
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMW120R030M1H_L3
 
.SUBCKT IMZA120R020M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 1P
L0072 SOURCESENSE SS 100P
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 2N
X009O TJ TCASE Z001N PARAMS: N02CL=13.35 N02DA=17.55
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=13.35
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMZA120R020M1H_L3
 
.SUBCKT IMW120R020M1H_L3 DRAIN GATE SOURCE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 10N
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 4N
X009O TJ TCASE Z001N PARAMS: N02CL=13.35 N02DA=17.55
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=13.35
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMW120R020M1H_L3
 
.SUBCKT IMZA120R014M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 1P
L0072 SOURCESENSE SS 100P
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 2N
X009O TJ TCASE Z002L PARAMS: N02CL=17.71 N02DA=22.91
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=17.71
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMZA120R014M1H_L3
 
.SUBCKT IMW120R014M1H_L3 DRAIN GATE SOURCE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 10N
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 4N
X009O TJ TCASE Z002L PARAMS: N02CL=17.71 N02DA=22.91
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=17.71
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMW120R014M1H_L3
 
.SUBCKT IMZA120R007M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 1P
L0072 SOURCESENSE SS 100P
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 2N
X009O TJ TCASE Z0030 PARAMS: N02CL=35.42 N02DA=45.82
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=35.42
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMZA120R007M1H_L3
 
.SUBCKT IMW120R007M1H_L3 DRAIN GATE SOURCE TJ TCASE
L005Q DRAIN DD 2N
L005X GATE GG 10N
R0085 N02BZ SS 0.1M
L008H SOURCE N02BZ 4N
X009O TJ TCASE Z0030 PARAMS: N02CL=35.42 N02DA=45.82
X$M009U DD GG SS POW TJ Z003I PARAMS: N02DJ=35.42
G009X 0 TJ VALUE={IF(TIME>0,LIMIT(ABS(V(POW,0)),0,1E10),0)}
R00AG TJ 0 1E6
.ENDS IMW120R007M1H_L3
 
.SUBCKT Z0006 TJ TCASE PARAMS: N02CL=100 N02DA=100
R01C1 TJ N02DL {0.05207/1.3}
R01C4 N02DL N02DV {0.1415/1.3}
R01CM N02DV N02E4 {0.2505/1.3}
R01D5 N02E4 TCASE {0.1051/1.3}
C01E7 TJ 0 {0.0009265*1.3}
C01EZ N02DL 0 {0.004784*1.3}
C01FK N02DV 0 {0.01346*1.3}
C01FP N02E4 0 {0.1212*1.3}
.ENDS Z0006
 
.SUBCKT Z000J TJ TCASE PARAMS: N02CL=100 N02DA=100
R01C1 TJ N02DL 5.221E-02
R01C4 N02DL N02DV 1.419E-01
R01CM N02DV N02E4 2.138E-01
R01D5 N02E4 TCASE 9.872E-02
C01E7 TJ 0 6.893E-04
C01EZ N02DL 0 3.519E-03
C01FK N02DV 0 1.033E-02
C01FP N02E4 0 9.288E-02
.ENDS Z000J
 
.SUBCKT Z001N TJ TCASE PARAMS: N02CL=100 N02DA=100
R01C1 TJ N02DL 2.568E-02
R01C4 N02DL N02DV 7.031E-02
R01CM N02DV N02E4 1.583E-01
R01D5 N02E4 TCASE 5.321E-02
C01E7 TJ 0 1.517E-03
C01EZ N02DL 0 7.979E-03
C01FK N02DV 0 2.241E-02
C01FP N02E4 0 1.959E-01
.ENDS Z001N
 
.SUBCKT Z002L TJ TCASE PARAMS: N02CL=100 N02DA=100
R01C1 TJ N02DL 1.993E-02
R01C4 N02DL N02DV 5.545E-02
R01CM N02DV N02E4 1.379E-01
R01D5 N02E4 TCASE 3.668E-02
C01E7 TJ 0 2.060E-03
C01EZ N02DL 0 1.105E-02
C01FK N02DV 0 3.153E-02
C01FP N02E4 0 2.790E-01
.ENDS Z002L
 
.SUBCKT Z0030 TJ TCASE PARAMS: N02CL=100 N02DA=100
R01C1 TJ N02DL 1.073E-02
R01C4 N02DL N02DV 3.129E-02
R01CM N02DV N02E4 9.157E-02
R01D5 N02E4 TCASE 1.459E-02
C01E7 TJ 0 4.371E-03
C01EZ N02DL 0 2.468E-02
C01FK N02DV 0 7.344E-02
C01FP N02E4 0 7.521E-01
.ENDS Z0030
 
.SUBCKT Z003I DD GG SS PJ TJ PARAMS: N02DJ=100
.FUNC LIMEXP(N02ED) {IF(N02ED>=0,IF(N02ED>50,(N02ED-49)*EXP(50),EXP(N02ED)),IF(ABS(N02ED)>50,1/((ABS(N02ED)-49)*EXP(50)),1/EXP(ABS(N02ED))))}
.FUNC LIMTANH(N02ED) {(1-LIMEXP(-2*N02ED))/(1+LIMEXP(-2*N02ED))}
.PARAM N02GS={N02DJ}
.PARAM INT={2.0}
.PARAM N02GT={1.0}
.PARAM N02H5={1.0}
.PARAM N02H9={0}
.PARAM N02HB={1.049*N02GS}
.PARAM N02HK={N02GS}
.PARAM N02HP={1.049*N02GS}
.PARAM N02I8={0.0}
X01WK N02IA N02IX N02IY Z004M PARAMS: N02JB={N02HB}
R01WL N02IA N02IY 10G
R01WT DD N02IY 10M
X01X6 N02JE N02IX Z004V PARAMS: N02KO={N02HP}
R01XF N02JE N02IX 10G
R01XO DD N02JE 10M
X01XQ N02IA N02JE N02KX Z005G PARAMS: N02L2={N02HK}
R01Y8 N02IA N02KX 10G
R01Z2 N02KX N02IX 10M
G01Z9 N02LB N02IX VALUE={V(N02LJ)*DDT(V(N02JE,N02IX))*IF(V(N02JE,N02IX)>0,N02LY+1E-15,1E-15)}
R01ZR N02LB N02IX 10G
R020A DD N02LB 2000M
.PARAM N02MI={0.002}
.PARAM N02MV={0.42E-3}
.PARAM N02NO={2}
.PARAM N02O8={50}
.PARAM N02OA={8}
.PARAM N02OB={1350}
E0219 N02P4 0 VALUE={(((-TANH(V(GG,SS)+N02NO)+1))/2)*(N02MI+N02MV*(V(TJ,0)-25.0))*I(V0264)/N02GS}
R021C N02P4 0 1E6
G021F N02P4 N02LJ VALUE={IF(V(N02JE,SS)>0,V(N02P4,N02LJ)/N02OA,V(N02P4,N02LJ)/N02O8)}
C022O N02LJ 0 1E-8
G022V N02LJ 0 VALUE={IF(V(N02JE,SS)>N02OB,1E5*V(N02LJ)*V(N02LJ),0)}
R024O N02LJ 0 1E9
.PARAM N02PB={3.785}
.PARAM N02PD={1E-10}
.PARAM N02LY={N02GS*N02PB*N02PD}
R0252 GG N02IA {INT}
X$M025J DD N02IA N02IX TJ Z0042 PARAMS: N02QC={N02GT} N02RK={N02H5} N02S6={N02H9} N02S7={N02GS}
V025L N02IX SS DC=0
X$M025M DD N02IA N02TP TJ Z0044 PARAMS: N02QC={N02GT} N02RK={N02H5} N02S6={N02H9} N02S7={N02GS} N02UE={N02I8}
V0264 SS N02TP DC=0
G026I 0 PJ VALUE={LIMIT(I(V025L)*(V(DD,SS)),-10000K,10000K)}
R027D 0 PJ 1
.ENDS Z003I
 
.SUBCKT Z0042 DD GG SS TJ PARAMS: N02QC=100 N02RK=100 N02S6=100 N02S7=100
.FUNC LIMEXP(N02ED) {IF(N02ED>=0,IF(N02ED>50,(N02ED-49)*EXP(50),EXP(N02ED)),IF(ABS(N02ED)>50,1/((ABS(N02ED)-49)*EXP(50)),1/EXP(ABS(N02ED))))}
.FUNC LIMTANH(N02ED) {(1-LIMEXP(-2*N02ED))/(1+LIMEXP(-2*N02ED))}
.FUNC LIMCOSH(N02ED) {0.5*(LIMEXP(N02ED)+LIMEXP(-N02ED))}
.FUNC N02VK(N02VX,N02WK,N02WY)={N02WY-(N02X8+N02XI*LIMEXP(N02Y7*N02VX)-N02YA*N02WK+N02S6)}
.FUNC N02YC(N02VX,N02WK,N02WY)={((N02VK(N02VX,N02WK,N02WY)+0.001+LOG(2*LIMCOSH(N02VK(N02VX,N02WK,N02WY))))/2)/2}
.FUNC N02YD(N02VX,N02WK,N02WY)={N0309*N02YC(N02VX,N02WK,N02WY)**N030R}
.FUNC N030X(N02VX,N02WK,N02WY)={1/(N0309*N02YC(N02VX,N02WK,N02WY)**N031J)}
.FUNC N031W(N02VX)={N0322+N032Q*(N02VX+N032X)**2.0}
.FUNC N033O(N02VX,N02WK,N02WY)={N02YD(N02VX,N02WK,N02WY)*((LIMTANH((N02WK/(N02YD(N02VX,N02WK,N02WY)*N030X(N02VX,N02WK,N02WY)))**(1/N033U(N02VX,N02WY))))**N033U(N02VX,N02WY))}
.FUNC N034W(N02VX,N02WK,N02WY)={N033O(N02VX,N02WK,N02WY)*N035W(N02VX,N02WK,N02WY)+LIMEXP(0.25*(N02WK-VBR))}
.FUNC N036Z(N02VX)={N0377+N037W*N02VX+N037Y*N02VX**2}
.FUNC N038T(N02VX)={N038X+N0392*N02VX+N039G*N02VX**2}
.FUNC N033U(N02VX,N02WY)={IF(N02WY>0,N036Z(N02VX)+N038T(N02VX)*N02WY,1)}
.FUNC N035W(N02VX,N02WK,N02WY)={1+(N039H(N02VX,N02WK,N02WY)*N03A6(N02WK))}
.FUNC N03A6(N02WK)={((LIMTANH((ABS(N02WK)-N03AD)*N03AJ)-LIMTANH((-N03AD)*N03AJ))/(1-LIMTANH((-N03AD)*N03AJ)))}
.FUNC N03BB(N02VX)={N03BL+N03BQ*N02VX+N03BS*N02VX**2}
.FUNC N03D1(N02VX)={N03D3+N03DD*N02VX+N03F7*N02VX**2}
.FUNC N039H(N02VX,N02WK,N02WY)={N03BB(N02VX)+N03D1(N02VX)*N02YC(N02VX,N02WK,N02WY)}
.PARAM N02YA={0.0015}
+N031J={1}
+N030R={2}
+VBR={1450}
+N02X8={3.15}
+N02XI={2.3319E+00}
+N02Y7={-3.3270E-03}
+N0309={1.0331E+00}
+N032X={50}
+N0322={5.6605E-02}
+N032Q={5.6831E-06}
+N03AD={1}
+N03AJ={0.005}
.PARAM N0377={1.815E+000}
+N037W={-1.072E-003}
+N037Y={-3.448E-006}
.PARAM N038X={3.429E-003}
+N0392={3.524E-005}
+N039G={3.810E-008}
.PARAM N03BL={6.034E-001}
+N03BQ={-3.800E-004}
+N03BS={-2.514E-006}
.PARAM N03D3={-4.714E-003}
+N03DD={-1.143E-005}
+N03F7={1.143E-007}
.FUNC N03HE(N02VX,N02WK,N02WY)={N02WK/(N030X(N02VX,N02WK,N02WY))}
.FUNC N03HL(N02VX,N02WK)={N02WK/(N031W(N02VX))}
R027K N03I6 0 1E9
G027Y N03I6 SS VALUE={N02S7*IF(V(N03I6,SS)>0.0,N034W(V(TJ,0),V(N03I6,SS),V(GG,SS)),1E-12)}
G028W N03I6 DD VALUE={N02S7*N03HL(V(TJ,0),V(N03I6,DD))}
.ENDS Z0042
 
.SUBCKT Z0044 DD GG SS TJ PARAMS: N02QC=100 N02RK=100 N02S6=100 N02S7=100 N02UE=100
.FUNC LIMEXP(N02ED) {IF(N02ED>=0,IF(N02ED>50,(N02ED-49)*EXP(50),EXP(N02ED)),IF(ABS(N02ED)>50,1/((ABS(N02ED)-49)*EXP(50)),1/EXP(ABS(N02ED))))}
.FUNC LIMTANH(N02ED) {(1-LIMEXP(-2*N02ED))/(1+LIMEXP(-2*N02ED))}
.FUNC N03IF(N02WK,N02VX,N02WY)={(N03IN+N03JC*(N02VX-25))*(-N02WK-N03K1(N02VX,N02WY))**N03MH}
.FUNC N03K1(N02VX,N02WY)={N03MQ-(N03MY-N03N4*(N02VX-25))*(1+LIMTANH(N03NJ*N02WY+N03PL))+N02UE}
.PARAM N03IN={0.8}
+N03MH={2.0}
+N03MQ={2.7}
+N03JC={0.002}
+N03MY={0.4}
+N03N4={0.0004}
+N03NJ={1.0}
+N03PL={1.0}
G0292 DD SS VALUE={N02S7*IF(V(GG,SS)>25,1E-12,IF(V(DD,SS)>-N03K1(V(TJ,0),V(GG,SS)),1E-12,-N03IF(V(DD,SS),V(TJ,0),V(GG,SS))))}
.ENDS Z0044
 
.SUBCKT Z004M GG SS DD PARAMS: N02JB=100
.FUNC LIMEXP(N02ED) {IF(N02ED>=0,IF(N02ED>50,(N02ED-49)*EXP(50),EXP(N02ED)),IF(ABS(N02ED)>50,1/((ABS(N02ED)-49)*EXP(50)),1/EXP(ABS(N02ED))))}
.FUNC LIMTANH(N02ED) {(1-LIMEXP(-2*N02ED))/(1+LIMEXP(-2*N02ED))}
.PARAM N03PY={1.6808E-12}
.PARAM N03Q7={6.0200E-12}
+N03RZ={-6.8112E-02}
.PARAM N03S3={2.9312E-12}
+N03TD={-5.1686E-03}
.PARAM N03TS={1.0008E-10}
+N03TX={-8.3837E-01}
.PARAM N03U3={6.0044E+00}
+N03UB={1.7230E-11}
+N03UM={4.8792E-01}
.PARAM N03VB={-6.3487E-01}
+N03WM={-2.9418E-10}
+N03WX={9.3502E-01}
.FUNC N03XB(N03XD) { N03PY }
.FUNC N03YA(N03XD) { N03Q7*LIMEXP(N03RZ*N03XD)}
.FUNC N03YO(N03XD) { N03S3*LIMEXP(N03TD*N03XD)}
.FUNC N03YZ(N03XD) { N03TS*LIMEXP(N03TX*N03XD)}
.FUNC N0403(N03XD) { N03UB*0.5*(-LIMTANH(N03UM*(N03XD-N03U3))+1.0)}
.FUNC N040A(N03XD) { N03WM*0.5*(-LIMTANH(N03WX*(N03XD-N03VB))+1.0)}
.FUNC CGD(N03XD) { N03XB(N03XD)+N03YA(N03XD)+N03YO(N03XD)+N03YZ(N03XD)+N0403(N03XD)+N040A(N03XD)}
G029W GG DD VALUE {0.95*N02JB*DDT(V(GG,DD))*IF(V(DD,SS)>0,CGD(V(DD,SS)),CGD(0.0))}
.ENDS Z004M
 
.SUBCKT Z004V DD SS PARAMS: N02KO=100
.FUNC LIMEXP(N02ED) {IF(N02ED>=0,IF(N02ED>50,(N02ED-49)*EXP(50),EXP(N02ED)),IF(ABS(N02ED)>50,1/((ABS(N02ED)-49)*EXP(50)),1/EXP(ABS(N02ED))))}
.FUNC LIMTANH(N02ED) {(1-LIMEXP(-2*N02ED))/(1+LIMEXP(-2*N02ED))}
.PARAM N040I={9.0102E-12}
.PARAM N041G={2.7014E-11}
+N042U={-3.9407E-03}
.PARAM N042Y={3.0618E-11}
+N043I={-1.3751E+00}
.PARAM N043T={1.9830E-01}
+N044F={7.2042E-11}
+N044U={-6.2920E-02}
.PARAM N044V={5.8791E+00}
+N0459={3.6073E-11}
+N045R={3.8986E-01}
.PARAM N046C={1.1204E+02}
+N046J={8.0399E-12}
+N046Q={1.6612E-02}
.FUNC N0488(N03XD) { N040I }
.FUNC N048I(N03XD) { N041G*LIMEXP(N042U*N03XD)}
.FUNC N048U(N03XD) { N042Y*LIMEXP(N043I*N03XD)}
.FUNC N0491(N03XD) { N044F*LIMEXP(N044U*(N03XD-N043T))}
.FUNC N0497(N03XD) { N0459*0.5*(-LIMTANH(N045R*(N03XD-N044V))+1.0)}
.FUNC N049R(N03XD) { N046J*0.5*(-LIMTANH(N046Q*(N03XD-N046C))+1.0)}
.FUNC CDS(N03XD) { N0488(N03XD)+N048I(N03XD)+N048U(N03XD)+N0491(N03XD)+N0497(N03XD)+N049R(N03XD)}
G01Z9 DD SS VALUE={0.94*N02KO*DDT(V(DD,SS))*IF(V(DD,SS)>0,CDS(V(DD,SS)),CDS(0.0))}
.ENDS Z004V
 
.SUBCKT Z005G GG DD SS PARAMS: N02L2=100
.PARAM N04AR={-1.7497E-09}
.PARAM N04BT={5.1553E-15}
.PARAM N04CM={-1.3051E+01}
+N04CQ={1.0075E-09}
+N04E2={1.1833E-01}
.FUNC N04E6(N03XD)={N04AR }
.FUNC N04EB(N03XD)={-N04BT*N03XD }
.FUNC N04EG(N03XD)={N04CQ*(TANH(N04E2*(N03XD-N04CM))+1.0)}
.FUNC CGS(N03XD)={N04E6(N03XD)+N04EB(N03XD)+N04EG(N03XD)}
G02B9 GG SS VALUE={N02L2*DDT(V(GG,SS))*CGS(V(DD,SS))}
  .ENDS Z005G  
